US08975252B2
A mixture of tert-butyl {[3-bromo-1-(3-methoxypropyl)-1H-indazol-6-yl]methyl}cyclopropylcarbamate (200 mg), aniline (64 mg), 2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl (X-Phos) (8.7 ml), potassium carbonate (88 mg) and tris(dibenzylideneacetone)dipalladium (4.2 mg) in tert-butanol (3 ml) was stirred at 100° C. for 24 hours under argon atmosphere. Water was added to the reaction mixture under ice-cooling and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over sodium sulfate and concentrated in vacuo. The resulted residue was purified with a silica gel column chromatography (eluting solvent: n-hexane to n-hexane/ethyl acetate=2/1) to give tert-butyl {[3-anilino-1-(3-methoxypropyl)-1H-indazol-6-yl]methyl}cyclopropylcarbamate (162 mg) as a yellow oil.

reactant | tert-butyl {[3-bromo-1-(3-methoxypropyl)-1H-indazol-6-yl]methyl}cyclopropylcarbamate | 200 mg | BrC1=NN(C2=CC(=CC=C12)CN(C(OC(C)(C)C)=O)C1CC1)CCCOC | C20H28BrN3O3
reactant | aniline | 64 mg | NC1=CC=CC=C1 | C6H7N
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl | 8.7 ml | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | potassium carbonate | 88 mg | C([O-])([O-])=O.[K+].[K+]
solvent | tert-butanol | 3 ml | C(C)(C)(C)O | C4H10O
catalyst | tris(dibenzylideneacetone)dipalladium | 4.2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Water | O | H2O
product | tert-butyl {[3-anilino-1-(3-methoxypropyl)-1H-indazol-6-yl]methyl}cyclopropylcarbamate | 162 mg | N(C1=CC=CC=C1)C1=NN(C2=CC(=CC=C12)CN(C(OC(C)(C)C)=O)C1CC1)CCCOC | C26H34N4O3
